US05385692
In a 50 ml-round bottomed flask, 5.00 g (18.2 mM) of 2-octylindan-5-carboxylic acid was placed and 7.0 ml of thionyl chloride and one drop of N,N'-dimethylformamide (DMF) were added thereto, followed by heat-refluxing for 30 minute. An excessive thionyl chloride was distilled off under reduced pressure from the above mixture to obtain 2-octylindan-5-carbonyl chloride. A solution of the above-obtained 2-octylindan-5-carbonyl chloride in 50 ml of THF was gradually added dropwise to 45 ml of 30%-ammonia water which had been cooled to about 0° C. on an ice-common salt bath under stirring. After the addition, the resultant mixture was stirred for 4.5 hours at room temperature. After the reaction, 300 ml of water was added to the reaction mixture to precipitate a crystal. The crystal was recovered by filtration and successively washed with water and methanol to obtain 4.59 g of 2-octyl-5-carbamoylindan (Yield: 92.1%).

reactant | 2-octylindan-5-carboxylic acid | 18.2 mM, 5.00 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(=O)O | C18H26O2
reactant | thionyl chloride | 7.0 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N'-dimethylformamide | one drop | CN(C)C=O | C3H7NO
product | 2-octylindan-5-carbonyl chloride | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(=O)Cl | C18H25ClO
